US05077297
5-Chloro-4-fluoro-3-nitrotrifluoromethylbenzene (50 g) was added to a cooled (5° C.) solution of stannous chloride (140 g) in concentrated agueous hydrochloric acid (187 ml). After stirring for several hours at the ambient temperature (ca 22° C.), the reaction mixture was stood overnight. After basification by the addition of sodium hydroxide, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried, and the solvent removed by evaporation under reduced pressure. The residual yellow oil was kugelrohr distilled under reduced pressure to give 3-amino-5-chloro-4-fluorotrifluoromethylbenzene (32 g):bp. 105° C./11 mm Hg; 'H NMR δ (CDCl3) 7.03 (1H, dq), 6.90 (1H, dq).

reactant | 5-Chloro-4-fluoro-3-nitrotrifluoromethylbenzene | 50 g | ClC=1C(=C(C=C(C1)C(F)(F)F)[N+](=O)[O-])F | C7H2ClF4NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 187 ml | Cl | ClH
product | 3-amino-5-chloro-4-fluorotrifluoromethylbenzene | 32 g | NC=1C=C(C=C(C1F)Cl)C(F)(F)F | C7H4ClF4N
